US07807673B2
Step E: N-{3-[3-(2-{[3-({[2-(methylsulfonyl)ethyl]amino}methyl)phenyl]amino}-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2-(2-thienyl)acetamide (title compound)
To a solution of 2,2,2-trifluoro-N-[2-(methylsulfonyl)ethyl]-N-[(3-{[4-(2-{3-[(2-thienylacetyl)amino]phenyl}pyrazolo[1,5-a]pyridin-3-yl)-2-pyrimidinyl]amino}phenyl)methyl]acetamide (79 mg, 0.11 mmol) in THF (3 mL) was added LiOH hydrate (10 mg, 0.21 mmol) in water (0.5 mL). The solution was heated to 50° C. for 2 h, and then diluted with EtOAc, washed with 1N Na2CO3, dried over Na2SO4, and concentrated to generate the title compound in 62% yield. 1H NMR (400 MHz, d6-DMSO) δ 10.36 (s, 1H), 9.55 (s, 1H), 8.84 (d, J=6.8 Hz, 1H), 8.52 (d, J=8.9 Hz, 1H), 8.24 (d, J=5.4 Hz, 1H), 7.90 (s, 1H), 7.74-7.76 (m, 2H), 7.59 (d, J=8.1 Hz, 1H), 7.38-7.50 (m, 2H), 7.28 (d, J=7.7 Hz, 1H), 7.20 (t, J=7.8 Hz, 1H), 7.13 (t, J=6.8 Hz, 1H), 6.92-6.98 (m, 3H), 6.44-6.51 (m, 2H), 3.88 (s, 2H), 3.66 (s, 2H), 3.23 (t, J=6.3 Hz, 2H), 3.01 (s, 3H), 2.91 (t, J=6.1 Hz). ES-LC/MS m/z=638 [M+H]+.

reactant | 2,2,2-trifluoro-N-[2-(methylsulfonyl)ethyl]-N-[(3-{[4-(2-{3-[(2-thienylacetyl)amino]phenyl}pyrazolo[1,5-a]pyridin-3-yl)-2-pyrimidinyl]amino}phenyl)methyl]acetamide | 0.11 mmol, 79 mg | FC(C(=O)N(CC1=CC(=CC=C1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C2=CC(=CC=C2)NC(CC=2SC=CC2)=O)CCS(=O)(=O)C)(F)F | C35H30F3N7O4S2
reactant | LiOH hydrate | 0.21 mmol, 10 mg | O[Li].O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-{3-[3-(2-{[3-({[2-(methylsulfonyl)ethyl]amino}methyl)phenyl]amino}-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2-(2-thienyl)acetamide | 62% yield | CS(=O)(=O)CCNCC=1C=C(C=CC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(CC=2SC=CC2)=O | C33H31N7O3S2
